US07335658B2
6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 5-fluoro-2-trifluoromethylbenzoyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white powder (65% yield). 1H NMR (400 MHz, CDCl3) δ 8.05, 7.98, 7.74, 7.27-7.24, 7.09-7.06, 7.00, 4.08-3.96, 3.94-3.68, 3.55, 3.36, 1.50, 0.79-0.69, 0.48-0.42, 0.11-0.09.

reactant | 5-fluoro-2-trifluoromethylbenzoyl chloride | FC=1C=CC(=C(C(=O)Cl)C1)C(F)(F)F | C8H3ClF4O
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O | C22H23F4N5O2
